US07592477B2
Step a) Formation of ethyl{[(3-dodec-1-ynyl-1-benzofuran-5-yl)methyl][4-(trifluoromethyl)-benzyl]amino}(oxo)acetate
The same procedure as employed in the preparation of Example 226 (step c) but using ethyl{[(3-bromo-1-benzofuran-5-yl)methyl][4-(trifluoromethyl)benzyl]amino}(oxo)acetate and 1-dodecyne gave the title compound as a yellow oil (34%). HPLC (Condition A), Rt: 6.39 min (HPLC purity: 99.2%).

reactant | ethyl{[(3-bromo-1-benzofuran-5-yl)methyl][4-(trifluoromethyl)benzyl]amino}(oxo)acetate | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC=1C=CC2=C(C(=CO2)Br)C1)=O | C21H17BrF3NO4
reactant | 1-dodecyne | C#CCCCCCCCCCC | C12H22
product | ethyl{[(3-dodec-1-ynyl-1-benzofuran-5-yl)methyl][4-(trifluoromethyl)-benzyl]amino}(oxo)acetate | 34% | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC=1C=CC2=C(C(=CO2)C#CCCCCCCCCCC)C1)=O | C33H38F3NO4
